US09301951B2
3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)-carbamoyl)benzylthio)propanoic acid
Into a 100-mL 3-necked round bottom flask, was placed a solution of methyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzylthio)propanoate (250 mg, 0.41 mmol, 1.00 equiv) in tetrahydrofuran (8 mL), and a solution of LiOH (98 mg, 4.08 mmol, 10.00 equiv) in water (2 mL). The resulting solution was stirred for 2 h at room temperature. The reaction progress was monitored by LCMS. The reaction was then quenched with 50 mL of water. The solution was adjusted to pH 3 with hydrochloric acid. The resulting solution was extracted with of ethyl acetate and the organic layers combined and dried over anhydrous sodium sulfate. The solids were filtered out. The resulting mixture was concentrated under vacuum. The crude product (120 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained 50 mg (20%) of a white solid. 1H-NMR (400 MHz, DMSO-d6, ppm): δ 13.02 (s, 1H), 9.60-9.56 (t, 1H), 9.01-8.99 (d, 1H), 8.60-8.57 (d, 1H), 8.42 (s, 1H), 8.05-8.03 (d, 1H), 7.93-7.82 (m, 3H), 7.72-7.51 (m, 7H), 7.35-7.30 (t, 1H), 4.65-4.63 (d, 2H), 3.91 (s, 2H), 2.64-2.59 (m, 3H). MS (ES, m/z): 594 [M+H]+.

reactant | methyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzylthio)propanoate | 0.41 mmol, 250 mg, 1.00 equiv | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC=C2)NC(=O)C=2C=C(CSCCC(=O)OC)C=CC2)C=CC1)(F)F | C32H28F3N3O4S
reactant | LiOH | 4.08 mmol, 98 mg, 10.00 equiv | [Li+].[OH-]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)-carbamoyl)benzylthio)propanoic acid | 50 mg, 20% | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC=C2)NC(=O)C=2C=C(CSCCC(=O)O)C=CC2)C=CC1)(F)F | C31H26F3N3O4S
